US06538152B1
To a solution of 2-[2-benzyloxy-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid (97 mg) in acetic acid (4 ml) was added 10% palladium carbon (wet, 50% water) (30 mg), and the mixture was stirred for 50 minutes at room temperature under a hydrogen atmosphere. The catalyst was filtered off, and the solvent was removed under reduced pressure. After addition of ethyl acetate to the residue, collection of the resulting insoluble material by filtration gave 2-[2-hydroxy-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid (77 mg).

reactant | 2-[2-benzyloxy-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid | 97 mg | C(C1=CC=CC=C1)OC1=C(OCC(=O)O)C=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C26H29NO6
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 30 mg | [C].[Pd]
product | 2-[2-hydroxy-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid | 77 mg | OC1=C(OCC(=O)O)C=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C19H23NO6
